US04271172
9.1 g (0.0177 mole) of alpha-amino-4-benzyloxycarbonyl-8-phenyl-1-thia-3,8-diazaspiro[4.5]decane-2-acetic acid dihydrochloride (obtained in 5.3) are suspended in 150 ml of dichloromethane. After cooling to -20° C., 18,6 g (0.0668 mole) of trityl chloride are added all at once. While maintaining the temperature at about -20° C., the suspension is slowly treated over the course of 1 hour with 17.6 g (0.17 mole) of triethylamine in 100 ml of dichloromethane. The reaction mixture is stirred for 1 hour at a temperature of from -10 to -20° C. and then left to stand overnight in a refrigerator, whereafter it is poured onto an ice-water mixture (pH about 11) and neutralized to about pH 6 by the addition of 85% phosphoric acid. The aqueous phase is extracted three times with 100 ml of dichloromethane. The combined extracts are washed with water and dried over anhydrous sodium sulfate, followed by evaporation to dryness under high vacuum on a waterbath at a temperature of from 20° to 25° C. The 4-benzyloxycarbonyl-8-phenyl-alpha-tritylamino-1-thia-3,8-diazaspiro[4.5]-decane-2-acetic acid thus obtained is used, without further purification, in step 7.3.

reactant | alpha-amino-4-benzyloxycarbonyl-8-phenyl-1-thia-3,8-diazaspiro[4.5]decane-2-acetic acid dihydrochloride | 0.0177 mole, 9.1 g | Cl.Cl.NC(C(=O)O)C1SC2(C(N1)C(=O)OCC1=CC=CC=C1)CCN(CC2)C2=CC=CC=C2
reactant | trityl chloride | 0.0668 mole, 18,6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 0.17 mole, 17.6 g | C(C)N(CC)CC | C6H15N
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-benzyloxycarbonyl-8-phenyl-alpha-tritylamino-1-thia-3,8-diazaspiro[4.5]-decane-2-acetic acid | C(C1=CC=CC=C1)OC(=O)C1NC(SC12CCN(CC2)C2=CC=CC=C2)C(C(=O)O)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H41N3O4S
